US08912188B2
To a solution of methyl 2-[1-[(tert-butoxy)carbonyl]-1H-indazol-5-yl]-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (105 mg, crude) in dichloromethane (20 mL) was added 2,2,2-trifluoroacetic acid (4 mL), The solution was stirred for 3 h at room temperature and concentrated under vacuum. The residue was quenched by the addition of water (50 mL) and adjusted pH to 9 with NaHCO3 (aq.), extracted with dichloromethane (3×30 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to afford methyl 2-(1H-indazol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate as a light yellow solid (69 mg, crude).

reactant | methyl 2-[1-[(tert-butoxy)carbonyl]-1H-indazol-5-yl]-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 105 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C27H29N5O4
reactant | 2,2,2-trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methyl 2-(1H-indazol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | N1N=CC2=CC(=CC=C12)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C22H21N5O2
